US03935234
In another example, 282 grams (3.0 moles) of phenol, 182 grams (3.04 moles) of acetic acid, 52.0 grams (0.604 moles) of methyl acrylate, 2.4 grams (0.012 moles) of cupric acetate monohydrate, 1.4 grams (0.0062 moles) of pallidium acetate, and 6 grams of a finely divided inert diatomaceous earth known in the trade as Celite were placed in a stainless steel autoclave. The autoclave was sealed and pressured to 250 pounds per square inch with air; this pressure being maintained as the mixture was stirred and air was bubbled through it at a rate of two cubic feet per hour (measured at atmospheric pressure). The mixture was heated to 90°C. for 3.5 hours while maintaining the stirring and the air flow, hereinbefore described. The catalyst did not precipitate out on the walls of the autoclave, while the methyl esters of o- and p-hydroxycinnamic acids and coumarin were obtained in a good yield.

reactant | phenol | 3.0 moles, 282 grams | C1(=CC=CC=C1)O | C6H6O
reactant | acetic acid | 3.04 moles, 182 grams | C(C)(=O)O | C2H4O2
reactant | methyl acrylate | 0.604 moles, 52.0 grams | C(C=C)(=O)OC | C4H6O2
reactant | acetate | C(C)(=O)[O-]
product | coumarin | O1C(=O)C=CC2=CC=CC=C12 | C9H6O2
